Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Multivitamin / Dicloxacillin / Hycomine 
Pediatric / Penicillins / Macrodantin / Zestril / Codeine
 
Attending: ___.
 
Chief Complaint:
Hallucinations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP:
Name: ___ 
Location: ___ - ___ 
___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

___ with HTN, HL, h/o breast ca, lymphadenopathy possibly due to 
Lymphoma, chronic ankle pain/tendonitis who presents with 
hallucinations and increase in episodes of apparent confusion.  
History is taken from patient and granddaughter.  Since her 
husband died ___ years ago, she has had hallucinations of her 
husband periodically in her house.  She has also seen her 
mother.  Per the granddaughter, she only reports seeing people 
she knew, never objects or other impersonal things.  Lately over 
the last 2 weeks, this behavior has escalated.  The patient 
would call at night or early in the morning upset because she 
couldn't find her husband.  Yesterday she reported to her 
daughter that she went to ___ with her husband, which did 
not occur.  The patient is aware of this behavior and believes 
it is a "normal" grieving response to her husband's death.  She 
was not present at the time of his death.

She otherwise feels physically well and denies new complaints.  
She denies new f/c, HA, vision change, ST, CP, SOB, cough, 
n/v/d, dysuria, leg pain or swelling . She has has chronic L 
ankle pain.  She reports decent appetite.  She has not slept 
well and take lorazepam at night.  She is independent.  The 
granddaughter reports that she seems more depressed of late.

In the ED, she was placed under ___.  CT and CXR 
performed.

10 point review of systems reviewed, otherwise negative except 
as listed above
 
Past Medical History:
1. GERD.
2. Right breast cancer, s/p mastectomy.
3. Cervical cancer.
4. TAH.
5. Left meniscal tear.
6. Adenomatous colonic polyps.
7. Lumbar disc displacement.
8. Basal cell cancer, followed periodically by dermatologist Dr.
___.
9. Hyperlipidemia.
10. FXII deficiency: In ___, she was found to have a
slightly prolonged PTT. Mixing study was "borderline," and there
was no evidence of a lupus anticoagulant. Factor levels showed
28% FXII.
11. Right nasal labial fold and left medial ankle BCCs s/p Mohs
excision by Dr. ___.
12/ Lymphadenopathy with atypical features concerning for 
Lymphoma though no formal dx has been made
 
Social History:
___
Family History:
Not pertinent to this hospitalization.  Reviewed.  ___ 
descent
 
Physical Exam:
ADMISSION EXAM:
VS: 97.6, BP 161/72, HR 68, RR 20, 95%RA
GEN: well appearing, pleasant ,in NAD
HEENT: MMM, OP clear, anicteric sclera
NECK: supple no LAD
HEART: RRR no mrg
LUNG: CTAB no wheeze
ABD: sfot NT/ND +BS no guarding or rebound
EXT: warm well perfused no edema
SKIN: several moles, no rash
NEURO: CN II-XII intact, fluent speech, ___ strength throughout 
and sensation intact.  No dsymetria.  ___ recall objects at 
5 min.  + ___ forward/backward

DISCHARGE EXAM:
VS: 97.6 166/84 89 20 100% on RA
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm.  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 12:57PM URINE  HOURS-RANDOM
___ 12:57PM URINE  HOURS-RANDOM
___ 12:57PM URINE  UHOLD-HOLD
___ 12:57PM URINE  GR HOLD-HOLD
___ 12:57PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:57PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 12:57PM URINE  RBC-4* WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-2 TRANS EPI-1
___ 12:57PM URINE  GRANULAR-1* HYALINE-7*
___ 12:57PM URINE  MUCOUS-OCC
___ 11:10AM   GLUCOSE-114* UREA N-24* CREAT-1.0 SODIUM-141 
POTASSIUM-5.4* CHLORIDE-101 TOTAL CO2-27 ANION GAP-18
___ 11:10AM   WBC-8.2 RBC-4.09 HGB-12.3 HCT-36.7 MCV-90 
MCH-30.1 MCHC-33.5 RDW-14.7 RDWSD-47.6*
___ 11:10AM   NEUTS-63.7 ___ MONOS-5.7 EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-5.24 AbsLymp-2.34 AbsMono-0.47 
AbsEos-0.10 AbsBaso-0.03
___ 11:10AM   PLT COUNT-236
___ 11:10AM   ___ PTT-40.2* ___

MICROBIOLOGY
------------
Blood culture ___: pending
Urine culture ___: pending

IMAGING
-------
CXR, on admission:
IMPRESSION:  
No acute cardiopulmonary abnormality. 

CT head on admission: 
No acute intracranial abnormality

DISCHARGE LABS
--------------
___ 06:45AM BLOOD WBC-7.4 RBC-4.50 Hgb-13.4 Hct-40.7 MCV-90 
MCH-29.8 MCHC-32.9 RDW-14.7 RDWSD-48.1* Plt ___
___ 06:45AM BLOOD Glucose-106* UreaN-18 Creat-0.9 Na-143 
K-3.5 Cl-106 HCO3-26 AnGap-15
___ 06:45AM BLOOD Mg-1.___ yo F with HTN, HL, lymphadenopathy, past loss of her husband, 
who presents with acute on chronic hallucinations of family 
members and reported increase in depressed mood.

# Hallucinations:
# Acute encephalopathy:
# Depressed mood:
Most consistent with possible depressed mood, possible cognitive 
decline and bereavement, related to her husband's death.  No 
clear evidence of infection and no other focal signs/symptoms.  
Medication effect with the lorazepam may also be playing a role, 
so this was held on admission and on discharge until she follows 
up with her PCP.  Blood and urine culture are pending on 
discharge.  Her LFTs, TSH, and vitamin B12 were unremarkable.  
She was continued on her sertraline.  Psychiatry evaluated her 
and felt that there was no reason to hold her in the hospital 
against her will, and patient was adamant to leave the hospital. 
 Patient should follow up with her PCP within ___ few days, to be 
scheduled by patient's family.  Referral to cognitive neurology 
as an outpatient is recommended.

# Hypertension: continued HCTZ, amlodipine

# Hyperlipidemia: continued statin

# GERD: continued PPI

TRANSITIONS OF CARE
-------------------
# Follow-up: Patient should follow up with her PCP within ___ few 
days, to be scheduled by patient's family.  Referral to 
cognitive neurology as an outpatient is recommended.  Blood and 
urine cultures should be followed up.

 
Medications on Admission:
Amlodipine 10mg daily
HCTZ 25mg daily
Ibuprofen 800mg TID prn
Lorazepam 2mg qHS
Omeprazole 20mg daily
Sertraline 50mg daily
Simvastatin 10mg daily
VEsicare 5mg daily
Colace 100mg daily prn
Fish oil

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY:PRN constipation 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Sertraline 50 mg PO DAILY 
6. Simvastatin 10 mg PO QPM 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Ibuprofen 800 mg PO Q8H:PRN pain 
9. Vesicare (solifenacin) 5 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hallucinations
Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you during your recent admission 
to ___.  You came for further evaluation of confusion and 
hallucinations.  You were evaluated by Psychiatry and they felt 
that you were OK to be discharged home.

We feel that you would benefit from seeing a cognitive 
neurologist, which your primary care doctor can help arrange.

It is important that you continue to take your medications as 
prescribed and follow up with your appointments as noted below. 

Good luck!
 
Followup Instructions:
___